* File: netlist.sp.pex
* Created: Wed Jun 11 22:23:12 2025
* Program "Calibre xRC"
* Version "v2019.2_26.18"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_SRAM_4%WL 5 8 18
c5 8 0 0.00148176f
r6 8 18 245.451
r7 5 18 244.547
.ends

.subckt PM_SRAM_4%NET20 5 7 9 10 14 22
c2 9 0 0.00554759f
r3 14 22 22.2222
r4 13 22 81.5625
r5 10 13 12.5926
r6 9 13 12.5926
r7 5 7 362.812
r8 5 22 436.533
.ends

.subckt PM_SRAM_4%NET19 2 5 9 10 14 17
c1 9 0 0.00442914f
r2 14 17 22.2222
r3 13 17 81.994
r4 10 13 12.5926
r5 9 13 12.5926
r6 5 17 436.533
r7 2 5 362.812
.ends

.subckt PM_SRAM_4%BL 1 11
c2 1 0 0.00258208f
r3 1 11 35.108
.ends

.subckt PM_SRAM_4%VSS 1 6 11 80 112
c4 11 0 0.00743353f
r5 93 112 2.22222
r6 68 80 47.5185
r7 68 93 13.3333
r8 11 93 15.0463
r9 11 80 21.713
r10 6 80 60.3759
r11 1 68 60.3759
.ends

.subckt PM_SRAM_4%VDD 1 6 11 38 45
c4 38 0 0.00494535f
r5 41 45 2.22222
r6 38 41 18.9753
r7 11 41 31.0136
r8 6 38 32.4448
r9 1 38 32.4095
.ends

.subckt PM_SRAM_4%BLN 1 7
c2 7 0 0.00259875f
r3 1 7 30.108
.ends

