************************************************************************
* auCdl Netlist:
* 
* Library Name:  testLib
* Top Cell Name: sram_16b_2
* View Name:     schematic
* Netlisted on:  Jun 13 09:58:11 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: testLib
* Cell Name:    sram_2_bit_1
* View Name:    schematic
************************************************************************

.SUBCKT sram_2_bit_1 BL BLN VDD VSS WL0 WL1
*.PININFO WL0:I WL1:I BL:B BLN:B VDD:B VSS:B
MM9 net36 WL1 BL VSS nmos_sram w=54.0n l=20n nfin=2
MM8 net35 WL1 BLN VSS nmos_sram w=54.0n l=20n nfin=2
MM0 net34 WL0 BL VSS nmos_sram w=54.0n l=20n nfin=2
MM3 net33 WL0 BLN VSS nmos_sram w=54.0n l=20n nfin=2
MM7 net36 net35 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM6 net35 net36 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM2 net34 net33 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM1 net33 net34 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM11 net36 net35 VDD VDD pmos_sram w=27n l=20n nfin=1
MM10 net35 net36 VDD VDD pmos_sram w=27n l=20n nfin=1
MM5 net34 net33 VDD VDD pmos_sram w=27n l=20n nfin=1
MM4 net33 net34 VDD VDD pmos_sram w=27n l=20n nfin=1
.ENDS

************************************************************************
* Library Name: testLib
* Cell Name:    sram_16b_2
* View Name:    schematic
************************************************************************

.SUBCKT sram_16b_2 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> 
+ BL<10> BL<11> BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> 
+ BLN<5> BLN<6> BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> 
+ BLN<15> VDD VSS WL0 WL1
*.PININFO WL0:I WL1:I BL<0>:B BL<1>:B BL<2>:B BL<3>:B BL<4>:B BL<5>:B BL<6>:B 
*.PININFO BL<7>:B BL<8>:B BL<9>:B BL<10>:B BL<11>:B BL<12>:B BL<13>:B BL<14>:B 
*.PININFO BL<15>:B BLN<0>:B BLN<1>:B BLN<2>:B BLN<3>:B BLN<4>:B BLN<5>:B 
*.PININFO BLN<6>:B BLN<7>:B BLN<8>:B BLN<9>:B BLN<10>:B BLN<11>:B BLN<12>:B 
*.PININFO BLN<13>:B BLN<14>:B BLN<15>:B VDD:B VSS:B
XI15 BL<0> BLN<0> VDD VSS WL0 WL1 / sram_2_bit_1
XI14 BL<1> BLN<1> VDD VSS WL0 WL1 / sram_2_bit_1
XI13 BL<2> BLN<2> VDD VSS WL0 WL1 / sram_2_bit_1
XI12 BL<3> BLN<3> VDD VSS WL0 WL1 / sram_2_bit_1
XI11 BL<4> BLN<4> VDD VSS WL0 WL1 / sram_2_bit_1
XI10 BL<5> BLN<5> VDD VSS WL0 WL1 / sram_2_bit_1
XI9 BL<6> BLN<6> VDD VSS WL0 WL1 / sram_2_bit_1
XI8 BL<7> BLN<7> VDD VSS WL0 WL1 / sram_2_bit_1
XI7 BL<8> BLN<8> VDD VSS WL0 WL1 / sram_2_bit_1
XI6 BL<9> BLN<9> VDD VSS WL0 WL1 / sram_2_bit_1
XI5 BL<10> BLN<10> VDD VSS WL0 WL1 / sram_2_bit_1
XI4 BL<11> BLN<11> VDD VSS WL0 WL1 / sram_2_bit_1
XI3 BL<12> BLN<12> VDD VSS WL0 WL1 / sram_2_bit_1
XI2 BL<13> BLN<13> VDD VSS WL0 WL1 / sram_2_bit_1
XI1 BL<14> BLN<14> VDD VSS WL0 WL1 / sram_2_bit_1
XI0 BL<15> BLN<15> VDD VSS WL0 WL1 / sram_2_bit_1
.ENDS

