************************************************************************
* auCdl Netlist:
* 
* Library Name:  testLib
* Top Cell Name: sram_2b_2
* View Name:     schematic
* Netlisted on:  Jun 12 13:29:12 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: testLib
* Cell Name:    sram_2b_2
* View Name:    schematic
************************************************************************

.SUBCKT sram_2b_2 BL BLN VDD VSS WL0 WL1
*.PININFO WL0:I WL1:I BL:B BLN:B VDD:B VSS:B
MM9 net2 WL1 BL VSS nmos_sram w=54.0n l=20n nfin=2
MM8 net1 WL1 BLN VSS nmos_sram w=54.0n l=20n nfin=2
MM7 net2 net1 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM6 net1 net2 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM0 net20 WL0 BL VSS nmos_sram w=54.0n l=20n nfin=2
MM3 net19 WL0 BLN VSS nmos_sram w=54.0n l=20n nfin=2
MM2 net20 net19 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM1 net19 net20 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM11 net2 net1 VDD VDD pmos_sram w=27n l=20n nfin=1
MM10 net1 net2 VDD VDD pmos_sram w=27n l=20n nfin=1
MM5 net20 net19 VDD VDD pmos_sram w=27n l=20n nfin=1
MM4 net19 net20 VDD VDD pmos_sram w=27n l=20n nfin=1
.ENDS

